US06310095B1
5-(4-chlorophenyl)-2-furoic acid, methyl ester
To a solution of 5-(4-chlorophenyl)-2-furoic acid (5.0 g, 22 mmol) in MeOH (50 mL) was added conc. H2SO4 (4 drops) and the resulting solution heated to 50° C. for 4 days. The reaction was cooloed and concentrated in vacuo. The residue was taken up in EtOAc (100 mL) and washed with saturated aqueous NaHCO3 (2×20 mL), dried (MgSO4) and concentrated in vacuo. The residue was purified by flash cjromatography (hexane/EtOAc 19:1) to give 3.8 g (72%) of a cream powder; MS m/z 254 (M++18, 100).

reactant | 5-(4-chlorophenyl)-2-furoic acid | 22 mmol, 5.0 g | ClC1=CC=C(C=C1)C1=CC=C(O1)C(=O)O | C11H7ClO3
reactant | MeOH | 50 mL | CO | CH4O
catalyst | H2SO4 | 4 drops | OS(=O)(=O)O | H2O4S
product | 5-(4-chlorophenyl)-2-furoic acid, methyl ester | 3.8 g, 72% | ClC1=CC=C(C=C1)C1=CC=C(O1)C(=O)OC | C12H9ClO3
